US08183793B2
(i) Synthesis of 9-phenylanthracene
25.7 g (100 mmol) of 9-bromoanthracene, 12.8 g (105 mmol) of phenylboronic acid, 233 mg (1.0 mmol) of palladium acetate(II), and 913 mg (3.0 mmol) of tri(o-tolyl)phospine were put into a 500-mL three-neck flask and nitrogen substitution was carried out. Then, 100 mL of ethylene glycol dimethyl ether and 75 mL (190 mmol) of a sodium carbonate aqueous solution (2.0 mol/L) were added thereto, and the reaction mixture was stirred at 90° C. for 5 hours. After the reaction, the reaction mixture was subjected to suction filtration to collect a precipitated solid. The obtained solid was dissolved into toluene, and the resulting solution was subjected to suction filtration through Florisil, celite, and then alumina. The filtrate was washed with water and saturated saline, and then an organic layer was dried with magnesium sulfate. This mixture is naturally filtrated, and the filtrate was condensed to obtain 25.0 g of a light-brown solid that was a target matter with the yield of 98%.

reactant | 9-bromoanthracene | 100 mmol, 25.7 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | phenylboronic acid | 105 mmol, 12.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 190 mmol, 2.0 mol/L, 75 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tri(o-tolyl)phospine | 3.0 mmol, 913 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
product | 9-phenylanthracene | 25.0 g, yield of 98% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
